US03992535
A solution of 490 mgm (1 millimol) of 2-benzyl-N-3-chloro-phenyl)-4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide in 100 ml of a mixture of chloroform and methanol (2:1) was hydrogenated in the presence of 500 mgm of a palladium-on-charcoal catalyst (10%) at a hydrogen pressure of 3 atmospheres for 10 hours. The reaction mixture was then filtered, and the catalyst left on the filter was copiously washed with hot chloroform. The combined filtrates were evaporated, and the residue was purified by columnchromatography (silicagel particle size 0.2-0.5 mm), using chloroform/methanol (20:1) as the eluant. 230 mgm (57% of theory) of N-(3-chloro-phenyl)-4-hydroxy-2H-naphtho[2,1-e]1,2-thiazine-3-carboxamide-1,1-dioxide, m.p. 262° C (decomp.), were obtained.

reactant | 4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | OC1=C(NS(C2=C1C=CC1=CC=CC=C12)(=O)=O)C(=O)N | C13H10N2O4S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N-(3-chloro-phenyl)-4-hydroxy-2H-naphtho[2,1-e]1,2-thiazine-3-carboxamide-1,1-dioxide | 57% | ClC=1C=C(C=CC1)NC(=O)C=1NS(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O | C19H13ClN2O4S
